US04916233
In 392 g of an aqueous 50 wt % sulfuric acid solution, 8.6 g of 4-methylimidazole 97.6% in purity, 15.7 g of 2-aminoethanethiol sulfuric acid, and 3.8 g of 80 wt % paraformaldehyde were dissolved as kept cooled below 30° C. The resultant mixture was placed in a closed glass-lined autoclave and stirred and heated therein at 120° C. for 10 hours and then at 140° C. for 10 hours. To the resultant reactio solution, 40.0 g of an aqueous 48 wt % sodium hydroxide solution was thoroughly stirred and then left standing at rest for 30 minutes. The upper layer alone was taken out. The oil substance was dissolved in 20.3 g of an aqueous 36 wt % hydrogen chloride solution. The resultant solution was concentrated and dried to hardness and then leached in 88.0 g of 1-propyl alcohol at the boiling point for one hour. The decoction was hot filtered. By drying the residue, there were obtained 18.6 g (84.2% in yield) of white crystals of 4-methyl-5-[(2-aminoethyl)-thiomethyl]-imidazole hydrochloride. The melting point of this product was 184° to 186° C.

reactant | 4-methylimidazole | 8.6 g | CC=1N=CNC1 | C4H6N2
reactant | 2-aminoethanethiol sulfuric acid | 15.7 g | C(CSS(=O)(=O)O)N | C2H7NO3S2
reactant | paraformaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-methyl-5-[(2-aminoethyl)-thiomethyl]-imidazole hydrochloride | Cl.CC=1N=CNC1CSCCN | InChI=1S/C7H13N3S.ClH/c1-6-7(10-5-9-6)4-11-3-2-8;/h5H,2-4,8H2,1H3,(H,9,10);1H
